US06376490B1
A mixture of 1H-imidazole-4-carboxylic acid ethyl ester (J.Het.Chem., 19, 253 (1982)) (584 mg, 4.17 mmol), 4-fluoronitrobenzene (588 mg, 4.17 mmol) and anhydrous sodium carbonate (487 mg, 4.59 mmol) in dry dimethylformamide (10 ml) was heated at 50° C. for 24 hours under nitrogen. After cooling to room temperature the mixture was poured into ice-cold water (60 ml) and the resulting solid collection by filtration, washed with water and dried under reduced pressure at 60° C. to give 1-(4-nitrophenyl)imidazole-4-carboxylic acid ethyl ester (980 mg, 90%) as an off-white solid, m.p. 198-200° C.

reactant | 1H-imidazole-4-carboxylic acid ethyl ester | 4.17 mmol, 584 mg | C(C)OC(=O)C=1N=CNC1 | C6H8N2O2
reactant | 4-fluoronitrobenzene | 4.17 mmol, 588 mg | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | sodium carbonate | 4.59 mmol, 487 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 1-(4-nitrophenyl)imidazole-4-carboxylic acid ethyl ester | 980 mg, 90% | C(C)OC(=O)C=1N=CN(C1)C1=CC=C(C=C1)[N+](=O)[O-] | C12H11N3O4
